US08957025B2
Benzyl [(1R)-2-({(2R)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropyl}amino)-1-methyl-2-oxoethyl]carbamate
Benzyl-[(1R)-2-amino-1-benzylethyl]carbamate (described in J. Med. Chem., 2010, p 106; 200 mg, 0.71 mmol) and N—BOC-D-alanine (134 mg, 0.71 mmol) were added to a stirred solution of 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride salt (163 mg, 0.85 mmol), 1-hydroxybenzotriazole monohydrate (115 mg, 0.75 mmol) and N-methylmorpholine (72 mg, 0.71 mmol) in DMF (3 mL) at room temperature under a nitrogen atmosphere. After 16 h the mixture was treated with 8 mL of ethyl acetate (creating a suspension) and washed with 12 mL of a 10% aqueous citric acid solution, 12 mL of water, 12 mL of a 3% aqueous solution of sodium bicarbonate, and another 10 mL of a saturated aqueous brine solution. The organic layer was dried over sodium sulfate and evaporated under reduced pressure to give 338 mg (93%) of a white foam of the title compound, which was used with no further purification.

reactant | Benzyl-[(1R)-2-amino-1-benzylethyl]carbamate | 0.71 mmol, 200 mg | C(C1=CC=CC=C1)OC(N[C@@H](CN)CC1=CC=CC=C1)=O | C17H20N2O2
reactant | N—BOC-D-alanine | 0.71 mmol, 134 mg | C(=O)(OC(C)(C)C)N[C@H](C)C(=O)O | C8H15NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride salt | 0.85 mmol, 163 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.75 mmol, 115 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.71 mmol, 72 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | Benzyl [(1R)-2-({(2R)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropyl}amino)-1-methyl-2-oxoethyl]carbamate | 338 mg, 93% | C(C)(C)(C)OC(=O)N[C@@H](CNC([C@@H](C)NC(OCC1=CC=CC=C1)=O)=O)CC1=CC=CC=C1 | C25H33N3O5
